US09403798B2
4-[4-(4-fluorophenyl)-5-oxo-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
To 4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one (20.0 mg, 0.0442 mmol) synthesized in Synthesis Example 190, dichloromethane (1.0 mL), sodium bicarbonate (11.1 mg, 0.132 mmol), and Dess-Martin periodinane (28.1 mg, 0.0663 mmol; manufactured by Tokyo Chemical Industry Co., Ltd.) were added and the resultant mixture was stirred at room temperature for 1 day. Then, to the reaction solution, dichloromethane (4.0 mL) and Dess-Martin periodinane (30.0 mg, 0.0707 mmol) were added and the resultant mixture was stirred at room temperature for 2 hours. After the completion of the reaction, the reaction solution was purified by silica gel column chromatography (ethyl acetate) to obtain the title compound (19.4 mg, yield: 98%).

reactant | 4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 0.0442 mmol, 20.0 mg | FC1=CC=C(C=C1)C1=CCN(CC1O)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O | C20H16F4N4O2S
reactant | sodium bicarbonate | 0.132 mmol, 11.1 mg | C([O-])(O)=O.[Na+]
reactant | Dess-Martin periodinane | 0.0663 mmol, 28.1 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 0.0707 mmol, 30.0 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | 4-[4-(4-fluorophenyl)-5-oxo-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 19.4 mg, yield: 98% | FC1=CC=C(C=C1)C1=CCN(CC1=O)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O | C20H14F4N4O2S
